### PR TITLE
[Merged by Bors] - feat: port Topology.LocalHomeomorph

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 1]
```diff
@@ -0,0 +1,1419 @@
...
+      rw [h']
+      exact mem_univ _
+  continuous_toFun := by
+    simpa only [continuous_iff_continuousOn_univ, h] using e.continuousOn
+  continuous_invFun := by
+    simpa only [continuous_iff_continuousOn_univ, h'] using e.continuousOn_symm
+#align local_homeomorph.to_homeomorph_of_source_eq_univ_target_eq_univ LocalHomeomorph.toHomeomorphOfSourceEqUnivTargetEqUniv
+
+-- porting note: todo: see #2350
+attribute [mfld_simps] toHomeomorphOfSourceEqUnivTargetEqUniv_apply toHomeomorphOfSourceEqUnivTargetEqUniv_symm_apply
```
Comment (urkud) [inline Mathlib/Topology/LocalHomeomorph.lean:1276]:
```suggestion
attribute [mfld_simps] toHomeomorphOfSourceEqUnivTargetEqUniv_apply
  toHomeomorphOfSourceEqUnivTargetEqUniv_symm_apply
```

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 2]
```diff
@@ -0,0 +1,1420 @@
...
+import Mathlib.Logic.Equiv.LocalEquiv
+import Mathlib.Topology.Sets.Opens
+
+/-!
+# Local homeomorphisms
+
+This file defines homeomorphisms between open subsets of topological spaces. An element `e` of
+`LocalHomeomorph α β` is an extension of `LocalEquiv α β`, i.e., it is a pair of functions
+`e.toFun` and `e.inv_fun`, inverse of each other on the sets `e.source` and `e.target`.
+Additionally, we require that these sets are open, and that the functions are continuous on them.
```
Comment (dupuisf) [inline Mathlib/Topology/LocalHomeomorph.lean:20]:
```suggestion
`e.toFun` and `e.invFun`, inverse of each other on the sets `e.source` and `e.target`.
Additionally, we require that these sets are open, and that the functions are continuous on them.
```

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 3]
```diff
@@ -0,0 +1,1420 @@
...
+`eq_on_source`           : equivalence relation describing the "right" notion of equality for local
+                           homeomorphisms
+
+## Implementation notes
+
+Most statements are copied from their local_equiv versions, although some care is required
+especially when restricting to subsets, as these should be open subsets.
+
+For design notes, see `local_equiv.lean`.
+
```
Comment (dupuisf) [inline Mathlib/Topology/LocalHomeomorph.lean:43]:
```suggestion
Most statements are copied from their `LocalEquiv` versions, although some care is required
especially when restricting to subsets, as these should be open subsets.

For design notes, see `LocalEquiv.lean`.

```

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 4]
```diff
@@ -0,0 +1,1420 @@
...
+This file defines homeomorphisms between open subsets of topological spaces. An element `e` of
+`LocalHomeomorph α β` is an extension of `LocalEquiv α β`, i.e., it is a pair of functions
+`e.toFun` and `e.inv_fun`, inverse of each other on the sets `e.source` and `e.target`.
+Additionally, we require that these sets are open, and that the functions are continuous on them.
+Equivalently, they are homeomorphisms there.
+
+As in equivs, we register a coercion to functions, and we use `e x` and `e.symm x` throughout
+instead of `e.toFun x` and `e.inv_fun x`.
+
```
Comment (dupuisf) [inline Mathlib/Topology/LocalHomeomorph.lean:25]:
```suggestion
instead of `e.toFun x` and `e.invFun x`.

```

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 5]
```diff
@@ -0,0 +1,1420 @@
...
+  continuous_toFun := e.continuous.continuousOn
+  continuous_invFun := e.symm.continuous.continuousOn
+#align homeomorph.to_local_homeomorph Homeomorph.toLocalHomeomorph
+
+-- porting note: todo: see #2350
+attribute [mfld_simps] Homeomorph.toLocalHomeomorph_apply Homeomorph.toLocalHomeomorph_symm_apply
+  Homeomorph.toLocalHomeomorph_source Homeomorph.toLocalHomeomorph_target
+
+/-- Replace `to_local_equiv` field to provide better definitional equalities. -/
+def replaceEquiv (e : LocalHomeomorph α β) (e' : LocalEquiv α β) (h : e.toLocalEquiv = e') :
```
Comment (dupuisf) [inline Mathlib/Topology/LocalHomeomorph.lean:217]:
```suggestion
/-- Replace `toLocalEquiv` field to provide better definitional equalities. -/
def replaceEquiv (e : LocalHomeomorph α β) (e' : LocalEquiv α β) (h : e.toLocalEquiv = e') :
```

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 6]
```diff
@@ -0,0 +1,1420 @@
...
+#align local_homeomorph.image_source_eq_target LocalHomeomorph.image_source_eq_target
+
+theorem symm_image_target_eq_source (e : LocalHomeomorph α β) : e.symm '' e.target = e.source :=
+  e.symm.image_source_eq_target
+#align local_homeomorph.symm_image_target_eq_source LocalHomeomorph.symm_image_target_eq_source
+
+/-- Two local homeomorphisms are equal when they have equal `toFun`, `inv_fun` and `source`.
+It is not sufficient to have equal `toFun` and `source`, as this only determines `inv_fun` on
+the target. This would only be true for a weaker notion of equality, arguably the right one,
+called `eq_on_source`. -/
```
Comment (dupuisf) [inline Mathlib/Topology/LocalHomeomorph.lean:327]:
```suggestion
/-- Two local homeomorphisms are equal when they have equal `toFun`, `invFun` and `source`.
It is not sufficient to have equal `toFun` and `source`, as this only determines `invFun` on
the target. This would only be true for a weaker notion of equality, arguably the right one,
called `eq_on_source`. -/
```

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 7]
```diff
@@ -0,0 +1,1420 @@
...
+    exact ⟨fun x => rfl, fun x => rfl, rfl⟩, fun h => e.ext e' h.1 h.2.1 h.2.2⟩
+#align local_homeomorph.ext_iff LocalHomeomorph.ext_iff
+
+@[simp, mfld_simps]
+theorem symm_toLocalEquiv : e.symm.toLocalEquiv = e.toLocalEquiv.symm :=
+  rfl
+#align local_homeomorph.symm_to_local_equiv LocalHomeomorph.symm_toLocalEquiv
+
+-- The following lemmas are already simp via local_equiv
+theorem symm_source : e.symm.source = e.target :=
```
Comment (dupuisf) [inline Mathlib/Topology/LocalHomeomorph.lean:347]:
```suggestion
-- The following lemmas are already simp via `LocalEquiv`
theorem symm_source : e.symm.source = e.target :=
```

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 8]
```diff
@@ -0,0 +1,1420 @@
...
+#align local_homeomorph.restr_open LocalHomeomorph.restrOpen
+
+@[simp, mfld_simps]
+theorem restrOpen_toLocalEquiv (s : Set α) (hs : IsOpen s) :
+    (e.restrOpen s hs).toLocalEquiv = e.toLocalEquiv.restr s :=
+  rfl
+#align local_homeomorph.restr_open_to_local_equiv LocalHomeomorph.restrOpen_toLocalEquiv
+
+-- Already simp via local_equiv
+theorem restrOpen_source (s : Set α) (hs : IsOpen s) : (e.restrOpen s hs).source = e.source ∩ s :=
```
Comment (dupuisf) [inline Mathlib/Topology/LocalHomeomorph.lean:698]:
```suggestion
-- Already simp via `LocalEquiv`
theorem restrOpen_source (s : Set α) (hs : IsOpen s) : (e.restrOpen s hs).source = e.source ∩ s :=
```

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 9]
```diff
@@ -0,0 +1,1420 @@
...
+section Piecewise
+
+/-- Combine two `LocalHomeomorph`s using `Set.piecewise`. The source of the new `LocalHomeomorph`
+is `s.ite e.source e'.source = e.source ∩ s ∪ e'.source \ s`, and similarly for target.  The
+function sends `e.source ∩ s` to `e.target ∩ t` using `e` and `e'.source \ s` to `e'.target \ t`
+using `e'`, and similarly for the inverse function. To ensure that the maps `toFun` and `inv_fun`
+are inverse of each other on the new `source` and `target`, the definition assumes that the sets `s`
+and `t` are related both by `e.is_image` and `e'.is_image`. To ensure that the new maps are
+continuous on `source`/`target`, it also assumes that `e.source` and `e'.source` meet `frontier s`
+on the same set and `e x = e' x` on this intersection. -/
```
Comment (dupuisf) [inline Mathlib/Topology/LocalHomeomorph.lean:1088]:
```suggestion
/-- Combine two `LocalHomeomorph`s using `Set.piecewise`. The source of the new `LocalHomeomorph`
is `s.ite e.source e'.source = e.source ∩ s ∪ e'.source \ s`, and similarly for target.  The
function sends `e.source ∩ s` to `e.target ∩ t` using `e` and `e'.source \ s` to `e'.target \ t`
using `e'`, and similarly for the inverse function. To ensure that the maps `toFun` and `invFun`
are inverse of each other on the new `source` and `target`, the definition assumes that the sets `s`
and `t` are related both by `e.is_image` and `e'.is_image`. To ensure that the new maps are
continuous on `source`/`target`, it also assumes that `e.source` and `e'.source` meet `frontier s`
on the same set and `e x = e' x` on this intersection. -/
```

File: Mathlib/Topology/LocalHomeomorph.lean [hunk 10]
```diff
@@ -0,0 +1,1420 @@
...
+  h.symm'.1
+#align local_homeomorph.eq_on_source.target_eq LocalHomeomorph.EqOnSource.target_eq
+
+/-- Two equivalent local homeomorphisms have coinciding `toFun` on the source -/
+theorem EqOnSource.eqOn {e e' : LocalHomeomorph α β} (h : e ≈ e') : EqOn e e' e.source :=
+  h.2
+#align local_homeomorph.eq_on_source.eq_on LocalHomeomorph.EqOnSource.eqOn
+
+/-- Two equivalent local homeomorphisms have coinciding `inv_fun` on the target -/
+theorem EqOnSource.symm_eqOn_target {e e' : LocalHomeomorph α β} (h : e ≈ e') :
```
Comment (dupuisf) [inline Mathlib/Topology/LocalHomeomorph.lean:982]:
```suggestion
/-- Two equivalent local homeomorphisms have coinciding `invFun` on the target -/
theorem EqOnSource.symm_eqOn_target {e e' : LocalHomeomorph α β} (h : e ≈ e') :
```

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors d+

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
